US06194406B1
1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(5-hydroxymethylfur-2-ylmethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine
Prepare by the method of Example 1.6 using 1-(3,4,5-trimethoxybenzoyl)-3-(2-methanesulfonyloxyethyl)-3-phenylpyrrolidine (prepared from (−)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine(R,R)-di-p-anisoyltartaric acid salt) and 4-(1-(5-hydroxymethylfur-2-ylmethyl)-1H-benzimidazol-2-yl)[1,4]diazepane to give, after chromatography on silica gel eluting with methanol, the title compound: Rf=0.41 (silica gel, methanol).

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(2-methanesulfonyloxyethyl)-3-phenylpyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCOS(=O)(=O)C)C=C(C1OC)OC | C23H29NO7S
reactant | 4-(1-(5-hydroxymethylfur-2-ylmethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | OCC1=CC=C(O1)CN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | C18H22N4O2
solvent | methanol | CO | CH4O
product | 1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(5-hydroxymethylfur-2-ylmethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCN(CCC2)C2=NC3=C(N2CC=2OC(=CC2)CO)C=CC=C3)C=C(C1OC)OC | C40H47N5O6
